US06858638B2
5-Amino-3-methylamino-1H-indazole can be obtained as described in Example 4 from 0.5 g of 3-methylamino-5-nitro-1H-indazole, 25 ml of ethanol, 5.2 g of ferrous sulfate, 8 ml of water and 6.2 ml of 32% aqueous ammonia. 0.1 g of 5-amino-3-methylamino-1H-indazole is thus obtained in the form of a cream powder melting at 215° C.

reactant | 3-methylamino-5-nitro-1H-indazole | 0.5 g | CNC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H8N4O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | ammonia | 6.2 ml | N | H3N
solvent | water | 8 ml | O | H2O
product | 5-amino-3-methylamino-1H-indazole | 0.1 g | NC=1C=C2C(=NNC2=CC1)NC | C8H10N4
